US04624955
6-Ethyl-3-(3-fluorophenyl)-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine
4-Chloro-1-ethyl-5-(3-fluorobenzoyl)-1H-pyrazolo[3,4-b]pyridine (4.60 g) and hydroxylamine hydrochloride (14.0 g) were refluxed in a solution of 250 ml of acetic acid and 4 ml of concentrated hydrochloric acid. After 90 minutes, the solvent was evaporated and the residue distributed between dichloromethane and an aqueous sodium bicarbonate solution. The organic phase was evaporated and the residue was chromatographed over 230-400 mesh silica gel (10% ethyl acetate/dichloromethane). Evaporation of the appropriate fractions gave 3.2 g of product, mp 182°-184°. Recrystallization from ethyl acetate gave analytically pure product, mp 183°-184° C.

reactant | 4-Chloro-1-ethyl-5-(3-fluorobenzoyl)-1H-pyrazolo[3,4-b]pyridine | 4.60 g | ClC1=C2C(=NC=C1C(C1=CC(=CC=C1)F)=O)N(N=C2)CC | C15H11ClFN3O
reactant | hydroxylamine hydrochloride | 14.0 g | Cl.NO
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 6-Ethyl-3-(3-fluorophenyl)-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine | 3.2 g | C(C)N1N=CC2=C1N=CC=1C2=NOC1C1=CC(=CC=C1)F | C15H11FN4O
